US04367238
A solution of 2-[2-methoxy-3-(2-fluorophenylthio)phenyl]propionitrile (3.2 g) in hydriodic acid (58%, 20 ml) and acetic acid (40 ml) was refluxed under heating for 20 hours, and acetic acid was distilled off under reduced pressure. To the residue were added water and aqueous sodium bicarbonate, and the mixture was extracted with diethyl ether. The extract was washed with dil. aqueous sodium hydrogen sulfite and water in turn, dried and evaporated under reduced pressure. The oily residue (2 g) was purified by column chromatography (silica gel 40 g, toluene) to give oily 3-methyl-7-(2-fluorophenylthio)-2,3-dihydrobenzofuran-2-one (1.3 g).

reactant | 2-[2-methoxy-3-(2-fluorophenylthio)phenyl]propionitrile | 3.2 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)F)C(C#N)C | C16H14FNOS
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | hydriodic acid | 20 ml | I | HI
product | 3-methyl-7-(2-fluorophenylthio)-2,3-dihydrobenzofuran-2-one | 1.3 g | CC1C(OC2=C1C=CC=C2SC2=C(C=CC=C2)F)=O | C15H11FO2S
